### ISSUE TITLE
"Dependent elimination failed" when index accesses struct field

### ISSUE THREAD

**Issue by philnguyen** [leanprover/lean4#9803]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

When a type's index is defined in terms of an argument's `structure` field, a straightforward `match` or `cases` on its values will fail.

### Context

[Lean Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/.22Dependent.20elimination.20failed.22.20when.20index.20accesses.20struct)

### Steps to Reproduce

In the following program, type `Term : Nat -> Type`'s first case `boxed` gets the index indirectly from the argument's field `Box.value`. Definitions `f₁`,  `f₂`,  `f₃` attempting to pattern match on two values of the same type `Term n` fail (using wild card, inaccessible patterns, and just the constant literals, respectively).

```lean
structure Box where
  value : Nat

inductive Term : Nat → Type u where
| boxed : (b : Box) → Term b.value
| base : Term 0

def f₁ : Term n → Term n → Unit
| .boxed ⟨_⟩, .boxed ⟨_⟩ => ()
| .base, .base => ()
| .boxed ⟨_⟩, .base => ()
| .base, .boxed ⟨_⟩ => ()
/-
dependent elimination failed, failed to solve equation
  0 = b✝.1
at case Term.boxed after processing
  _, Term.base, _
-/

def f₂ : Term n → Term n → Unit
| .boxed ⟨k⟩, .boxed ⟨.(k)⟩ => ()
| .base, .base => ()
| .boxed ⟨.(0)⟩, .base => ()
| .base, .boxed ⟨.(0)⟩ => ()
/-
dependent elimination failed, failed to solve equation
  0 = b✝.1
at case Term.boxed after processing
  _, Term.base, _
-/

def f₃ : Term n → Term n → Unit
| .boxed ⟨k⟩, .boxed ⟨.(k)⟩ => ()
| .base, .base => ()
| .boxed ⟨0⟩, .base => ()
| .base, .boxed ⟨0⟩ => ()
/-
dependent elimination failed, failed to solve equation
  0 = b✝.1
at case Term.boxed after processing
  _, (Term.boxed (Box.mk 0)), _
-/
```

[Robin Arnez](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/.22Dependent.20elimination.20failed.22.20when.20index.20accesses.20struct/near/533532122) also points out on Zulip that a `cases` on `Term 0` will also fail with the same error:
``` lean
example (x : Term 0) : Unit := by
  cases x
/-
dependent elimination failed, failed to solve equation
  0 = b✝.1
-/
```

[Kyle Miler](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/.22Dependent.20elimination.20failed.22.20when.20index.20accesses.20struct/near/533527012) points out a workaround on Zulip:

```lean
def fAux : Term m → Term n → m = n → Unit
| .boxed ⟨k⟩, .boxed _, rfl => ()
| .boxed ⟨.(0)⟩, .base, rfl => ()
| .base, .boxed ⟨.(0)⟩, rfl => ()
| .base, .base, rfl => ()

def f (t t' : Term n) : Unit := fAux t t' rfl
```

**Expected behavior:**
Pattern matching succeeds, with either the wild card or the explicit inaccessible patterns.

**Actual behavior:**
Errors that equation `0 = b.value` cannot be solved.

### Versions

Lean 4.21.0
Target: arm64-apple-darwin23.6.0 macOS

Also Lean nightly [on live.lean-lang.org](https://live.lean-lang.org/#project=lean-nightly&codez=M4FwTgrgxiFgpgAgEIHsAeiDuALeCAoRRANwEMAbCJALkQDkyQCCBLAOwBNoRWSkAKvgC2iOoxCJASYSIBATwAOSCNjyEAPogBGGeJzGIAFFoNp0ASmmyR2gHTkq8Apq1lgta2FEAGFp3gAZogBgIEEBkJeiOxWEaLRMgCq7KzMmrY66HqIgBfkAPqAl+QANIjpuvp5+YgAvAB8RubOJa7uxeluSLX1jaWZ5QWtzR11hg1pgwNlOQXVww0EAPQAtAT+Slzw7JLwFKzCHEysqNEBZKwUesUnZ1kgqIjAqBT8iPAAjhAHR0SI3tXagLjktgAjAQmIgoO1PMIelkyAEQPhEAowKgoPBgMAOABzb65YqxNotRC5AiLeZ+QLBQBBBOEbPEoVErEkUt0MllsgBrIpNSbZWyGDnmSqdEas9oDSEi0Y83o5fneIUS9wzLpjcUy9nyoUq0VLFbwNb+TYvHZ7difY6nc6cS5Wm53B5PJBvD68L7EX5VAHA0GSCHKgls/RwhFgJEotEY7G4/EiQnwYokskUoIBQDBBLTIvTYozEslUhrylyJrK+QLtVKxUT4zrpTDyt5uTXK2rq0Gco3awtlqsNkatqb9m7LdcbcE7fpbvdHs8XRbvp7vSCwf7BHH2yHEcjUejMewccQ8UZA5NDGZbMIOT9zOZE6TyQR4OgyMIFOcjJg6DmFQZmZIaF6WhyN8q7AIg6DdvqhobAOuxDocI7Wrao6IFOjqzu884en8WiAiCyakosiAAMJwAgxpYKgYAcmQKIQFw+qpgAghAn4MqIMg5vSohevSf6sryxaFsSxRgAEFBdmMvJak24yIGJEktk06r1nKhgKtyCmScpbbqlplaMcERiSCAADkmZxJYdB/mIXoBCxmAmeZCkEEAA)

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by juniorxxue** [comment]
I encountered the similar issue when dealing with `Fin`, defined with struct instead of an inductive definition. Here's the MWE:

```
inductive Ty where
  | int : Ty
  | arr : Ty → Ty → Ty
  
inductive Env : Nat → Type where
  | empty : Env 0
  | cons : {n : Nat} → Ty → Env n → Env (n + 1)

namespace Env

inductive Lookup : {n : Nat} → Env n → Fin n → Ty → Prop where
  | found : ∀ Γ A, Lookup (cons A Γ) 0 A
  | next : ∀ {n} (Γ : Env n) (x : Fin n) A B,
      Lookup Γ x A → Lookup (cons B Γ) x.succ A

theorem Lookup.det : ∀ {n} {Γ : Env n} {x : Fin n} {A A' : Ty},
  Lookup Γ x A → Lookup Γ x A' → A = A' := by
  intros n Γ x A A' h1
  revert A'
  induction h1 <;> intro A' h2
  . cases h2
    rfl
  . cases h2
    sorry
```
You'll  get `Dependent elimination failed` at the end. However, replacing the `Fin` with a customized inductive `MyFin` would be a temp solution for this issue.
